US09382188B2
B) 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)(methyl)amino)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)propanoate (148 mg) in ethanol (2.8 mL) was added 2N aqueous sodium hydroxide solution (695 μL) at room temperature, and the mixture was stirred for 5 hr. The mixture was further stirred at 50° C. for 2 hr, and the reaction mixture was cooled to 0° C. The mixture was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (128 mg) as a colorless gummy substance.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)propanoate | 148 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H40FNO3
reactant | sodium hydroxide | 2N, 695 μL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethanol | 2.8 mL | C(C)O | C2H6O
product | 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)(methyl)amino)methyl)phenyl)propanoic acid | 128 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)CN(C)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C32H38FNO3
